US07737145B2
A solution of (R)—N-[[4-(4-bromophenoxy)phenyl]methyl]-N-methyl-2-pyrrolidinemethanamine hydrochloride salt (0.87 g, 2 mmol) and methyl 4-formylbenzoate (346 mg, 2.11 mmol) in dichloroethane (20 mL) was stirred as diisopropylethylamine (0.12 mL, 3 mmol) and sodium triacetoxyborohydride (536 mg, 2.53 mmol) were added sequentially. The reaction was stirred at ambient temperature overnight. The reaction was treated with a saturated aqueous solution of sodium bicarbonate and extracted with ethyl acetate (2×). The combined organic extracts were dried and concentrated. Purification by flash chromatography on silica gel gave 0.9 g of methyl 4-[[(R)-2-[[[[4-(4-bromophenoxy)phenyl]methyl]methyl-amino]methyl]-1-pyrrolidinyl]methyl]benzoate.

reactant | (R)—N-[[4-(4-bromophenoxy)phenyl]methyl]-N-methyl-2-pyrrolidinemethanamine hydrochloride salt | 2 mmol, 0.87 g | Cl.BrC1=CC=C(OC2=CC=C(C=C2)CN(C[C@@H]2NCCC2)C)C=C1
reactant | methyl 4-formylbenzoate | 2.11 mmol, 346 mg | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | diisopropylethylamine | 3 mmol, 0.12 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium triacetoxyborohydride | 2.53 mmol, 536 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloroethane | 20 mL | ClC(C)Cl | C2H4Cl2
product | methyl 4-[[(R)-2-[[[[4-(4-bromophenoxy)phenyl]methyl]methyl-amino]methyl]-1-pyrrolidinyl]methyl]benzoate | 0.9 g | BrC1=CC=C(OC2=CC=C(C=C2)CN(C)C[C@@H]2N(CCC2)CC2=CC=C(C(=O)OC)C=C2)C=C1 | C28H31BrN2O3
